US07763608B2
To a solution of methyl 2-(4-(azidomethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoate prepared above (25 mg, 0.071 mmol) in THF (1 mL) and H2O (0.025 mL, 1.4 mmol), Ph3P (64 mg, 0.24 mmol) was added. After being stirred at room temperature overnight, the mixture was concentrated in vacuo to give methyl 2-(4-(aminomethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoate as a crude mixture, which was then used in the next transformation. MS 325.1 (M+H).

reactant | methyl 2-(4-(azidomethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoate | N(=[N+]=[N-])CC=1N=CN(C1)C1=C(C(=O)OC)C=C(C=C1)N1C(C=CC=C1)=O | C17H14N6O3
reactant | H2O | 1.4 mmol, 0.025 mL | O | H2O
reactant | Ph3P | 0.24 mmol, 64 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-(aminomethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoate | NCC=1N=CN(C1)C1=C(C(=O)OC)C=C(C=C1)N1C(C=CC=C1)=O | C17H16N4O3
